US09162953B2
Preparation of 1-(4-nitro-phenyl)-1H-pyrazole
Following General Procedure A (90° C., 30 hours), 1H-pyrazole (205 mg, 3.0 mmol) is coupled with 1-bromo-4-nitrobenzene (404 mg, 2.0 mmol). The crude brown oil is purified by flash chromatography on silica gel (eluent: dichloromethane/hexanes=50/50) to provide 340 mg (90% isolated yield) of the desired product as a yellow solid.

reactant | 1H-pyrazole | 3.0 mmol, 205 mg | N1N=CC=C1 | C3H4N2
reactant | 1-bromo-4-nitrobenzene | 2.0 mmol, 404 mg | BrC1=CC=C(C=C1)[N+](=O)[O-] | C6H4BrNO2
product | 1-(4-nitro-phenyl)-1H-pyrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CC=C1 | C9H7N3O2
